US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-6,6-dimethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-6,6-dimethyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1. Yield: 58% of theory; LC (method 1): tR=2.84 min; Mass spectrum (ESI+): m/z=360 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-6,6-dimethyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | CC1(C2=C([C@H]3CCCN[C@H]3C1)C=CC=C2)C | C15H21N
product | (1H-Benzoimidazol-5-yl)-(cis-6,6-dimethyl-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 58% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(C(C[C@H]21)(C)C)C=CC=C3 | C23H25N3O
